US07294629B2
To 4-bromo-2-nitrobenzoic acid (1.80 g, 7.83 mmol) were added 0.88N aqueous sodium hydroxide solution (10 mL), iron(III) chloride (133 mg) and isopropyl alcohol (0.7 mL) and the mixture heated to 75° C. While stirring the mixture, hydrazine (1.1 mL) was slowly added, and the mixture was reacted at 75° C. for 2 hrs. The reaction mixture was filtered and the filtrate was concentrated. The precipitated solid was washed with water to give 4-bromoanthranilic acid (1.73 g, 96%).

reactant | 4-bromo-2-nitrobenzoic acid | 7.83 mmol, 1.80 g | BrC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | sodium hydroxide | 0.88N, 10 mL | [OH-].[Na+]
reactant | hydrazine | 1.1 mL | NN | H4N2
catalyst | iron(III) chloride | 133 mg | [Fe](Cl)(Cl)Cl
solvent | isopropyl alcohol | 0.7 mL | C(C)(C)O | C3H8O
product | 4-bromoanthranilic acid | 1.73 g, 96% | BrC=1C=C(C(C(=O)O)=CC1)N | C7H6BrNO2
